US05869509
3-Ethoxy-5-[4-(trifluoromethyl)phenyl]-4H-1,2,4-triazole (R1 =R3 =H, R2 =CF3)
5-[4-(Trifluoromethyl)phenyl]1,3,4-oxadiazol-2-amine (10 g, 44 mmol) and potassium hydroxide (7.4 g, 0.132 mol) dissolved in abs. ethanol (300 ml) were heated at reflux for 3 h. After being cooled to 24° C., the solution was neutralized with acetic acid and concentrated by rotary evaporation. The residue was taken up in ethyl acetate and washed with water and brine. Recrystallization from acetonitrile/ether (2:1) gave 9 g (82%); mp 151°-152° C.; IR(KBr, ν=cm-1) 2996, 1534, 1460, 1330, 1162, 1130, 1070; 1H NMR (300 MHz, DMSO-d6) δ1.35 (3H, t, J=7.1 Hz), 4.38 (2H, q, J=7.0 Hz), 7.82 (2H, d, J=8.3 Hz), 8.10 (2H, d, J=8.1 Hz), 13.64 (1H, br. s); MS(DCl)m/z: 258 (MH+)

reactant | 5-[4-(Trifluoromethyl)phenyl]1,3,4-oxadiazol-2-amine | 44 mmol, 10 g | FC(C1=CC=C(C=C1)C1=NN=C(O1)N)(F)F | C9H6F3N3O
reactant | potassium hydroxide | 0.132 mol, 7.4 g | [OH-].[K+]
reactant | ethanol | 300 ml | C(C)O | C2H6O
reactant | KBr | [K+].[Br-]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 3-Ethoxy-5-[4-(trifluoromethyl)phenyl]-4H-1,2,4-triazole | C(C)OC1=NN=C(N1)C1=CC=C(C=C1)C(F)(F)F | C11H10F3N3O
